US04281188
5 g (0.018 M) of 7-amino-1,3-dihydro-1-methyl-5-(o-fluorophenyl)-2H-1,4-benzodiazepin-2-one are heated at reflux for 5 hours with 15 ml of isopropylisocyanate and a catalytic amount of triethylamine. The mixture is left to stand at room temperature for 2.5 days, the product crystallising out partially. The solvent is concentrated partially, cooled with ice and the crystallised product is filtered off. After recrystallisation from methylene chloride/ethyl acetate, there is obtained 1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-isopropylurea which melts at 185°-188° C. with decomposition.

reactant | 7-amino-1,3-dihydro-1-methyl-5-(o-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.018 M, 5 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | isopropylisocyanate | 15 ml | C(C)(C)N=C=O | C4H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-isopropylurea | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NC(=O)NC(C)C)C)=O | C20H21FN4O2
